US08003806B2
(a) Ethyl 3-phenyl-3-(5-{[4-(2-pyrazinyl)-1-piperazinyl]carbonyl}-1H-benzimidazol-1-yl)propanoate
To a solution of 1-(3-ethoxy-3-oxo-1-phenylpropyl)-1H-benzimidazole-5-carboxylic acid (70 mg, 207 μmol) in DMF (4 mL) was added N,N-diisopropylethylamine (40 μL, 229 μmol) and TBTU (80 mg, 249 μmol). The solution was stirred at room temperature for 0.5 hour, 1-(2-pyrazinyl) piperazine (41 mg, 249 μmol) was added, and stirring continued at room temperature for 24 hours. The solution was evaporated in vacuo, and the residue was purified by flash column chromatography on silica gel, eluting with a mixture of dichloromethane and methanol (95:5) to afford the title compound, [LCMS (Method A, Mobile Phase I) RT=4.33 min, MH+ 485].

reactant | 1-(3-ethoxy-3-oxo-1-phenylpropyl)-1H-benzimidazole-5-carboxylic acid | 207 μmol, 70 mg | C(C)OC(CC(C1=CC=CC=C1)N1C=NC2=C1C=CC(=C2)C(=O)O)=O | C19H18N2O4
reactant | N,N-diisopropylethylamine | 229 μmol, 40 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | TBTU | 249 μmol, 80 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | 1-(2-pyrazinyl) piperazine | 249 μmol, 41 mg | N1=C(C=NC=C1)N1CCNCC1 | C8H12N4
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | Ethyl 3-phenyl-3-(5-{[4-(2-pyrazinyl)-1-piperazinyl]carbonyl}-1H-benzimidazol-1-yl)propanoate | C1(=CC=CC=C1)C(CC(=O)OCC)N1C=NC2=C1C=CC(=C2)C(=O)N2CCN(CC2)C2=NC=CN=C2 | C27H28N6O3
